US09216972B2
To a solution of 3-phenyl-4-(trifluoromethyl)isoxazole-5-carboxylic acid (Intermediate I-3D, 0.500 g, 1.94 mmol) in dichloromethane (5 mL) and methanol (1 mL) at room temperature was added trimethyldiazomethane (2.0 M in ether) (1.26 mL, 2.53 mmol) slowly over 5 min. The resulting reaction mixture was stirred for 30 min. The reaction mixture was diluted with dichloromethane (40 mL) and washed with brine (20 mL). The aqueous layer was extracted with dichloromethane (2×20 mL), and the organic layers were combined and dried over anhydrous sodium sulfate. Concentration under reduced pressure afforded methyl 3-phenyl-4-(trifluoromethyl)isoxazole-5-carboxylate (0.513 g, 1.89 mmol, 97% yield) as a yellow oil. The product had an HPLC ret. time=2.55 min. (condition A); LC/MS M+1=272.0; 1H NMR (400 MHz, CDCl3) δ ppm 4.07 (s, 3H), 7.47-7.56 (m, 3H), and 7.59 (d, J=7.04 Hz, 2H).

reactant | 3-phenyl-4-(trifluoromethyl)isoxazole-5-carboxylic acid | 1.94 mmol, 0.500 g | C1(=CC=CC=C1)C1=NOC(=C1C(F)(F)F)C(=O)O | C11H6F3NO3
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
reactant | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | methanol | 1 mL | CO | CH4O
product | methyl 3-phenyl-4-(trifluoromethyl)isoxazole-5-carboxylate | 1.89 mmol, 0.513 g, 97% yield | C1(=CC=CC=C1)C1=NOC(=C1C(F)(F)F)C(=O)OC | C12H8F3NO3
